US07402604B2
From (S)-2-amino-3-phenylpropan-1-ol and 4-benzyloxy-1-methyl-1H-indole-2-carbonyl chloride the intermediate compound (S)-N-[1-benzyl-2-hydroxyethyl]-4-(benzyloxy)-1-methyl-1H-indole-2-carboxamide was prepared by a method analogous to that described in Example 23.

reactant | (S)-2-amino-3-phenylpropan-1-ol | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | 4-benzyloxy-1-methyl-1H-indole-2-carbonyl chloride | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)Cl | C17H14ClNO2
product | (S)-N-[1-benzyl-2-hydroxyethyl]-4-(benzyloxy)-1-methyl-1H-indole-2-carboxamide | C(C1=CC=CC=C1)[C@@H](CO)NC(=O)C=1N(C2=CC=CC(=C2C1)OCC1=CC=CC=C1)C | C26H26N2O3
